US06268387B1
Step A: 3-Nitro-4-fluoro-N-phenyl-benzamide
Dicyclohexylcarbodiimide (13.4 g, 65 mmol) was added to a mixture of 4-fluoro-3-nitrobenzoic acid (11.21 g, 61 mmol), 1-hydroxybenzotriazole hydrate (8.72 g, 65 mmol), aniline (6.3 g, 68 mmol), and dimethylformamide (200 mL) all at once (exotherm), and the mixture was stirred at room temperature overnight. The reaction mixture was filtered, the solvent was removed by rotary evaporator (70° C.), and the residue taken up in ethyl acetate (300 mL). The ethyl acetate solution was washed with water (3×200 mL), dried (magnesium sulfate), filtered, and stripped of solvent to leave an orange solid residue. The solid was recrystallized from hexane/ethyl acetate and used without further purification in the next step. Filtration through silica gel, eluting with dichloromethane/methanol 95:5 afforded an analytical sample; m.p. 155-157° C.

reactant | Dicyclohexylcarbodiimide | 65 mmol, 13.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-fluoro-3-nitrobenzoic acid | 61 mmol, 11.21 g | FC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | 1-hydroxybenzotriazole hydrate | 65 mmol, 8.72 g | O.ON1N=NC2=C1C=CC=C2
reactant | aniline | 68 mmol, 6.3 g | NC1=CC=CC=C1 | C6H7N
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 3-Nitro-4-fluoro-N-phenyl-benzamide | [N+](=O)([O-])C=1C=C(C(=O)NC2=CC=CC=C2)C=CC1F | C13H9FN2O3
